reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[C:5](=[O:6])[H:14])[H:12])[H:11])([H:7])([H:8])[H:9].[O:4]([H:10])[H:13],71.5359693434573
[C:1]([C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[O:5]1)([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[O+:5][C-:4]([H:12])[H:13])([H:6])([H:7])[H:8],68.9381528754638
[C:1]([O:2][C:3]([C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[C:4]([O-:5])[N+:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],81.6716990111054
[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([O:6][C:5](=[O+:4][C-:3]([H:8])[H:9])[H:10])[H:7],80.9664002536482
[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[O+:5][C-:4]([H:12])[H:13])([H:6])([H:7])[H:8]>>[C:1]([C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[O:5]1)([H:6])([H:7])[H:8],19.5049383919618
[C:1](/[N:2]=[C:3](\[O:4][C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[N:2][C:3]([O:4][C:5](=[O:6])[H:11])([H:8])[H:10])([H:7])[H:9],79.9427740003164
[C:1]([C:2]([C:3]#[C:4][H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2](=[C:3]=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7],62.86239659062329
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]([C:2][C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],78.5177195053136
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1](/[C:2]([O:3][H:11])=[C:4](\[O:5]/[C:6](=[N:7]/[H:13])[H:12])[H:10])([H:8])[H:9],61.0103957960039
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[O:1]([C@@:2]([C:3][O:4][H:9])([C:5]#[C:6][H:10])[H:8])[H:7],81.20229337228129
[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O+:3]=[C-:2][N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],108.26555694430901
[C:1]([C:2]([H:9])([H:10])[H:11])([H:6])([H:7])[H:8].[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],6.577495644415109
[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[H:7][H:9].[N:1](=[C:2]1\[O:3][C@:4]1([C:5]#[N:6])[H:10])\[H:8],116.76812147178002
[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C-:2]([N+:3]([C:4]([C:5]#[N:6])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],83.70161940102808
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C-:4]=[C:5]([H:14])[C:7]([H:15])=[C+:6]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],26.831811946166212
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5][O:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],29.765655892107212
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[C@@:4]([C:3]([H:12])([H:13])[H:14])([C:6]#[C:7][H:15])[O:5]1)([H:8])([H:9])[H:10],87.95934548325407
[O+:1](=[C:2]([N:3]([C-:4]([H:10])[H:11])[H:9])[H:8])[C:5]([C:6]#[C:7][H:14])([H:12])[H:13]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],17.3902861771372
[H:10][H:12].[O:1]([C:2](=[C:3]=[C:4]=[C:5]([C:6](=[O:7])[H:13])[H:11])[H:9])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],47.7534478228457
[C:1]([C:4]([C:3]([C:2][H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9],31.56573923344979
[C:1]([H:6])([H:7])([H:8])[H:11].[C:2](=[C:3]([C:4](=[O:5])[H:13])[H:12])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],75.18961584740731
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:12])[C:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C@@:7]12[H:19])([H:8])([H:9])[H:10],9.419441169175798
[C:1](=[C:2]([C:3]([H:10])([H:11])[H:12])[C:5]([O:6][H:16])([H:14])[H:15])([H:8])[H:9].[O:4]([H:7])[H:13]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9],53.5649222938241
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2]([O:3][H:12])=[C:4](/[O:5][C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],47.6907653837112
[C:1]([C:2](=[C:3]=[C:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],60.624686747728504
